US06051712
Cleavage of the SEM group from (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-(2-trimethylsilyl-ethoxymethoxy)-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine using a 2N solution of hydrogen chloride in methanol analogously to the procedure described in Example 5 (g) yielded (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-hydroxy-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine as a colourless resin; MS: 458 (M+H)+.

reactant | (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-(2-trimethylsilyl-ethoxymethoxy)-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine | FC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C(=C1)OCC1=C(C=CC=C1)OCOCC[Si](C)(C)C | C35H42FNO4Si
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | (3RS,4RS)-4-(4-fluorophenyl)-3-[4-[2-hydroxy-benzyloxy]-naphthalen-2-ylmethoxy]-piperidine | FC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C(=C1)OCC1=C(C=CC=C1)O | C29H28FNO3
